US05424280
Preparation of Methyl {o-{5-{[1-methyl-5-(trifluoromethyl)pyrazol-3-yl]oxy}-2-nitrophenoxy}phenoxy}acetate
A mixture of methyl [o-(5-fluoro-2-nitrophenoxy)phenoxy]acetate (1.1 g, 3.4 mmol), 1-methyl-5-(trifluoromethyl)pyrazol-3-ol (0.63 g, 3.8 mmol) and potassium carbonate (0.53 g, 3.8 mmol) in N,N-dimethylformamide is stirred at 100° C. for 18 hours, cooled to room temperature, poured into water and extracted with ethyl acetate. The organic extract is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain an orange oil. Column chromatography of the oil using silica gel and a 30% ethyl acetate in hexanes solution gives the title product as a yellow oil (0.5 g) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | methyl [o-(5-fluoro-2-nitrophenoxy)phenoxy]acetate | 3.4 mmol, 1.1 g | FC=1C=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)[N+](=O)[O-] | C15H12FNO6
reactant | 1-methyl-5-(trifluoromethyl)pyrazol-3-ol | 3.8 mmol, 0.63 g | CN1N=C(C=C1C(F)(F)F)O | C5H5F3N2O
reactant | potassium carbonate | 3.8 mmol, 0.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl {o-{5-{[1-methyl-5-(trifluoromethyl)pyrazol-3-yl]oxy}-2-nitrophenoxy}phenoxy}acetate | 0.5 g | CN1N=C(C=C1C(F)(F)F)OC=1C=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)[N+](=O)[O-] | C20H16F3N3O7
